US09447091B2
N-(5-(5-(4-ethylpiperazin-1-yl)-1H-benzo[d]imidazol-1-yl)-2′,4′-difluoro-[1,1′-biphenyl]-3-yl)cyclopropanesulfonamide
To a solution of the compound of N-(5-(5-bromo-1H-benzo[d]imidazol-1-yl)-2′,4′-difluoro-[1,1′-biphenyl]-3-yl)cyclopropanesulfonamide (110 mg, 0.198 mmol) in DMSO was added potassium carbonate (54 mg, 0.391 mmol, 2.0 eq.). The mixture was degassed by N2 bubbling for 10 min followed by addition of 1-ethylpiperazine (68 mg, 0.595 mmol, 3.0 eq.) and L-proline (4.5 mg) and CuI (3 mg). Then seal tube was closed and the mixture was kept at 95° C. for 24 h. The mixture was quenched and extracted as in Example 1(d). The solvent was distilled off to afford the crude residue which was purified by preparative HPLC to give the product in 18% yield (20 mg). 1H NMR (400 MHz, DMSO-D6): δ10.3 (s, 1H), 8.98 (s, 1H), 7.77 (m, 1H), 7.66 (s, 1H), 7.60 (brs, 2H), 7.50 (brs, 2H), 7.41 (s, 1H), 7.33-7.27 (m, 2H), 3.60 (m, 4H), 3.29-3.20 (m, 4H), 3.02 (q, 2H), 2.90 (t, 1H), 1.30 (t, 3H), 1.04 (q, 4H), LC-MS (ESI): Calculated mass: 537.62; Observed mass: 538.1 [M+H]+

reactant | N-(5-(5-bromo-1H-benzo[d]imidazol-1-yl)-2′,4′-difluoro-[1,1′-biphenyl]-3-yl)cyclopropanesulfonamide | 0.198 mmol, 110 mg | BrC1=CC2=C(N(C=N2)C=2C=C(C=C(C2)C2=C(C=C(C=C2)F)F)NS(=O)(=O)C2CC2)C=C1 | C22H16BrF2N3O2S
reactant | potassium carbonate | 0.391 mmol, 54 mg, 2.0 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | 1-ethylpiperazine | 0.595 mmol, 68 mg, 3.0 eq. | C(C)N1CCNCC1 | C6H14N2
reactant | L-proline | 4.5 mg | N1[C@H](C(=O)O)CCC1 | C5H9NO2
solvent | DMSO | CS(=O)C | C2H6OS
catalyst | CuI | 3 mg | [Cu]I
product | N-(5-(5-(4-ethylpiperazin-1-yl)-1H-benzo[d]imidazol-1-yl)-2′,4′-difluoro-[1,1′-biphenyl]-3-yl)cyclopropanesulfonamide | 18% yield | C(C)N1CCN(CC1)C1=CC2=C(N(C=N2)C=2C=C(C=C(C2)C2=C(C=C(C=C2)F)F)NS(=O)(=O)C2CC2)C=C1 | C28H29F2N5O2S
